US08426447B2
A vial was charged with rac-N-tert-butyl-2′-chloro-7′-(5-pyrimidinyl)spiro[1,3-thiazole-4,9′-xanthen]-2-amine (63.0 mg, 144 μmol) and TFA (1111 μl, 14418 μmol) resulting in a dark orange mixture. The vial was capped and placed in a 150° C. oil bath for 2 d. The reaction mixture cooled to RT, poured into 6N NaOH (aq.), and extracted with DCM (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 12-g Redi-Sep column, eluting with 0-50% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give racemic-2′-chloro-7′-(5-pyrimidinyl)spiro[1,3-thiazole-4,9′-xanthen]-2-amine as an off-white solid. MS m/z=381.0 [M+H]+. Calc'd for C19H14ClN4OS: 381.1.

reactant | rac-N-tert-butyl-2′-chloro-7′-(5-pyrimidinyl)spiro[1,3-thiazole-4,9′-xanthen]-2-amine | 144 μmol, 63.0 mg | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)Cl)C=2C=NC=NC2)N1 | C23H21ClN4OS
reactant | TFA | 14418 μmol, 1111 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 6N | [OH-].[Na+]
product | racemic-2′-chloro-7′-(5-pyrimidinyl)spiro[1,3-thiazole-4,9′-xanthen]-2-amine | ClC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(SC3)N | C19H13ClN4OS
